US07262198B2
A mixture of N-(2-bromoethyl)[4-(trifluoromethyl)phenyl]carboxamide (0.6 g, 2 mmol), BOC-piperazine (0.38 g, 2 mmol), and potassium carbonate (0.56 g, 4 mmol) in acetone was heated to reflux for 2 hours. The reaction was then cooled and concentrated. The product was isolated using column chromatography (EtOAc:Hexanes 1:1) to yield tert-butyl 4-(2-{[4-(trifluoromethyl)phenyl]carbonylamino}ethyl)piperazinecarboxylate (M+1=402.1)

reactant | N-(2-bromoethyl)[4-(trifluoromethyl)phenyl]carboxamide | 2 mmol, 0.6 g | BrCCNC(=O)C1=CC=C(C=C1)C(F)(F)F | C10H9BrF3NO
reactant | BOC-piperazine | 2 mmol, 0.38 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | potassium carbonate | 4 mmol, 0.56 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | tert-butyl 4-(2-{[4-(trifluoromethyl)phenyl]carbonylamino}ethyl)piperazinecarboxylate | FC(C1=CC=C(C=C1)C(=O)NCCN1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C19H26F3N3O3
